US06214859B1
Synthesis of 1-(1,3-Benzodioxol-5-yl)-2-butylaminopentane Hydrochloride (compound No. 29)
Using the same method as stated in Example 1, 1-(1,3-Benzodioxol-5-yl)-2-butylaminopentane was converted to hydrochloride and 1.42 g (4.7 mmol) of title compound was obtained (48%).

reactant | 1-(1,3-Benzodioxol-5-yl)-2-butylaminopentane | O1COC2=C1C=CC(=C2)CC(CCC)NCCCC | C16H25NO2
reactant | hydrochloride | Cl | ClH
product | 1-(1,3-Benzodioxol-5-yl)-2-butylaminopentane Hydrochloride | 4.7 mmol, 1.42 g | Cl.O1COC2=C1C=CC(=C2)CC(CCC)NCCCC | InChI=1S/C16H25NO2.ClH/c1-3-5-9-17-14(6-4-2)10-13-7-8-15-16(11-13)19-12-18-15;/h7-8,11,14,17H,3-6,9-10,12H2,1-2H3;1H
